US05763463
Preparation of N-(3-chloro-2-ethylpyridin-4-yl)-N-methoxycarbonyl-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide (Compound No. I-118)
0.87 g (2.0 mmol) of N-(3-chloro-2-ethylpyridin-4-yl)-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide was dissolved in 5 ml of tetrahydrofuran, and the solution was stirred at room temperature. Then, 0.058 g (2.4 mmol) of sodium hydride was gradually added thereto, and the mixture was further stirred for one hour at room temperature. Then, 2 ml of a tetrahydrofuran solution containing 0.38 g (4.0 mmol) of methyl chloroformate was dropwise added thereto at a temperature of from -5° to 0° C, and the mixture was stirred for 30 minutes at a temperature of from -5° to 0° C. and for 12 hours at room temperature. Then, the reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate) and then purified by high performance liquid chromatography to obtain 0.28 g of the desired product as a white powder (melting point: 62° to 64° C.)

reactant | N-(3-chloro-2-ethylpyridin-4-yl)-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide | 2.0 mmol, 0.87 g | ClC=1C(=NC=CC1NC(CC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O)CC | C21H17ClF3N3O2
reactant | sodium hydride | 2.4 mmol, 0.058 g | [H-].[Na+]
reactant | methyl chloroformate | 4.0 mmol, 0.38 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-(3-chloro-2-ethylpyridin-4-yl)-N-methoxycarbonyl-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide | 0.28 g | ClC=1C(=NC=CC1N(C(CC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O)C(=O)OC)CC | C23H19ClF3N3O4
